US07005525B2
Et2CHOSiEt3:
1H NMR (CDCl3) δ 3.53 (quintet, 1H, 3JHH=6 Hz, Et2CH), 1.47 (m, 4H, CH2CH), 0.98 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.89 (t, 6H, 3JHH=8 Hz, CH3CH2CH), 0.62 (q, 6H, 3JHH=8 Hz, CH3CH2Si). 1H NMR (C6D6) δ 3.48 (quintet, 1H, 3JHH=6 Hz, Et2CH), 1.44 (m, 4H, CH2CH), 1.01 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.87 (t, 6H, 3JHH=8 Hz, CH3CH2CH), 0.60 (q, 6H, 3JHH=8 Hz, CH3CH2Si). 13C NMR (CDCl3) δ 75.0 (s, Et2CH), 29.6 (s, CH2CH), 9.9 (s, CH3CH2CH), 7.1 (s, CH3CH2Si), 5.3 (s, 1JCSi=59 Hz, CH3CH2Si). MS, m/z 201 ((M−H)+, 1), 173 (95), 103 (100), 75 (80). (Et2CH)2O: 1H NMR (CDCl3) δ 3.16 (quintet, 1H, 3JHH=6 Hz, Et2CH), 1.47 (m, 4H, CH2CH), 0.89 (t, 6H, 3JHH=8 Hz, CH3CH2CH). 1H NMR (C6D6) δ 3.04 (quintet, 1H, 3JHH=6 Hz, Et2CH), 1.44 (m, 4H, CH2CH), 0.87 (t, 6H, 3JHH=8 Hz, CH3CH2CH). 13C NMR (CDCl3) δ 79.7 (s, Et2CH), 26.6 (s, CH2CH), 9.9 (s, CH3CH2CH). MS, m/z 129 ((M-Et)+, 20), 71 (40), 59 (100). Et2CHOSiMe2Ph: 1H NMR (CDCl3) δ 7.66 (m, 2H, o-Ph), 7.41 (m, 3H, m-Ph and p-Ph), 3.60 (quintet, 1H, 3JHH=6 Hz, Et2CH), 1.50 (m, 4H, CH2CH), 0.90 (t, 6H, 3JHH=7 Hz, CH3CH2CH), 0.45 (s, 6H, CH3Si). 1H NMR (C6D6) δ 7.60 (m, 2H, o-Ph), 7.27 (m, 3H, m-Ph and p-Ph), 3.50 (quintet, 1H, 3JHH=6 Hz, Et2CH), 1.46 (m, 4H, CH2CH), 0.88 (t, 6H, 3JHH=7 Hz, CH3CH2CH), 0.39 (s, 6H, CH3Si). 13C NMR (CDCl3) δ 138.9 (s, i-Ph), 133.8 (s, o-Ph), 129.6 (s, p-Ph), 127.9 (s, m-Ph), 75.6 (s, Et2CH), 29.5 (s, CH2CH), 10.0 (s, CH3CH2CH), −0.7 (s, 1JCSi=61 Hz, CH3Si). MS, m/z 221 ((M−H)+, <0.1), 207 (5), 193 (40), 137 (60), 135 (100). CH2═CH(CH2)2CH(Me)OSiEt3: 1H NMR (CDCl3) δ 5.80 (m, 1H, HC═), 4.99 (dq, 1H, JHH=17 and 2 Hz, H2C═), 4.92 (dm, 1H, JHH=10 Hz, H2C═), 3.80 (sextet, 1H, 3JHH=6 Hz, SiOCH), 2.08 (m, 2H, CH2CH═), 1.50 (m, 2H, CH2CH2CH═), 1.13 (d, 3JHH=6 Hz, 3H, Me), 0.95 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.59 (q, 6H, 3JHH=8 Hz, CH3CH2Si). 13C NMR (CDCl3) δ 139.0 (s, HC═), 114.4 (s, H2C═), 68.1 (s, SiOCH), 39.2 and 30.3 (s, CH2), 24.0 (s, Me), 7.1 (s, CH3CH2Si), 5.2 (s, 1JCSi=59 Hz, CH3CH2Si). MS, m/z 213 ((M−H)+, <0.1), 185 (40), 103 (100), 75 (60). PhCH(CH3)OSiEt3: 1H NMR (CDCl3) δ 7.43 (m, 2H, Ph), 7.39 (m, 2H, Ph), 7.30 (m, 1H, Ph), 4.97 (q, 1H, 3JHH=6 Hz, CH3CH), 1.53 (d, 3H, 3JHH=6 Hz, CH3CH), 1.03 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.68 (dq, 6H, 3JHH=4 and 8 Hz, CH3CH2Si). 1H NMR (C6D6) δ 7.33 (m, 2H, Ph), 7.18 (m, 2H, Ph), 7.07 (m, 1H, Ph), 4.77 (q, 1H, 3JHH=6 Hz, CH3CH), 1.40 (d, 3H, 3JHH=6 Hz, CH3CH), 0.94 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.56 (dq, 6H, 3JHH=4 and 8 Hz, CH3CH2Si). 13C NMR (CDCl3) δ 147.1 (s, i-Ph), 128.3 (s, o- or m-Ph), 127.0 (s, p-Ph), 125.4 (s, o- or m-Ph), 70.8 (s, CHCH3), 27.5 (s, CH3CH), 7.0 (s, CH3CH2Si), 5.1 (s, 1JCSi=59 Hz, CH3CH2Si). MS spectrum matched with National Institute of Standards and Technology (NIST) database. p-F—C6H4—CH(CH3)OSiEt3: 1H NMR (CDCl3) δ 7.39 (m, 2H, Ar), 7.05 (tt, 2H, JHH=3 and 9 Hz, Ar), 4.95 (q, 1H, 3JHH=6 Hz, CH3CH), 1.50 (d, 3H, 3JHH=6 Hz, CH3CH), 1.02 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.67 (dq, 6H, 3JHH=3 and 8 Hz, CH3CH2Si). 1H NMR (C6D6) δ 7.10 (m, 2H, Ar), 6.82 (m, 2H, Ar), 4.66 (q, 1H, 3JHH=6 Hz, CH3CH), 1.30 (d, 3H, 3JHH=6 Hz, CH3CH), 0.93 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.53 (dq, 6H, 3JHH=3 and 8 Hz, CH3CH2Si). 13C NMR (CDCl3) δ 162.1 (d, 1JCF=244 Hz, Ar), 143.0 (d, 4JCF=3 Hz, Ar), 126.9 (d, 3JCF=8 Hz, Ar), 115.0 (d, 2JCF=21 Hz, Ar), 70.3 (s, CHCH3), 27.5 (s, CH3CH), 6.9 (s, CH3CH2Si), 5.1 (s, 1JCSi=59 Hz, CH3CH2Si). MS matched with NIST database. C3H5CH(CH3)OSiEt3: 1H NMR (CDCl3) δ 3.10 (q, 1H, 3JHH=6 Hz, CH3CH), 1.08 (d, 3H, 3JHH=6 Hz, CH3CH), 0.82 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.72 (m, 1H, CHCHCH3), 0.44 (q, 6H, 3JHH=8 Hz, CH3CH2Si), 0.27 (m, 2H, CH2CH), 0.12 (m, 1H, CH2CH), −0.02 (m, 1H, CH2CH). 13C NMR (CDCl3) δ 72.3 (s, CH3CH), 24.0 (s, CH3CH), 19.3 (s, CHCHCH3), 7.0 (s, CH3CH2Si), 5.3 (s, 1JCSi=59 Hz, CH3CH2Si), 3.3 (s, CH2CH), 2.1 (s, CH2CH). MS, m/z 171 ((M-Et)+, 80), 143 (85), 103 (100), 75 (95). CH3CH═CH(CH2)2OSiEt3: 1H NMR (CDCl3) δ 5.30 (m, 2H, ═CH), 3.46 (t, 2H, 3JHH=7 Hz, CH2O), 2.07 (q, 2H, 3JHH=7 Hz, CH2CH2O), 1.50 (d, 3H, 3JHH=6 Hz, CH3CH═), 0.79 (t, 9H, 3JHH=8 Hz, CH3CH2Si), 0.38 (q, 6H, 3JHH=8 Hz, CH3CH2Si). 13C NMR (CDCl3) δ 127:8 (s, ═CH), 127.0 (s, ═CH), 63.2 (s, CH2O), 36.6 (s, CH2CH—2O), 18.1 (s, CH3CH═), 6.9 (s, CH3CH2Si), 4.7 (s, 1JCSi=59 Hz, CH3CH2Si). MS, m/z 171 ((M-Et)+, 100), 117 (90), 115 (70), 75 (75).

reactant | Et2CHOSiMe2Ph | C(CC)(CC)O[Si](C)(C)C1=CC=CC=C1 | C13H22OSi
reactant | CH2═CH(CH2)2CH(Me)OSiEt3 | C=CCCC(C)O[Si](CC)(CC)CC | C12H26OSi
reactant | PhCH(CH3)OSiEt3 | C1(=CC=CC=C1)C(C)O[Si](CC)(CC)CC | C14H24OSi
reactant | p-F—C6H4—CH(CH3)OSiEt3 | FC1=CC=C(C=C1)C(C)O[Si](CC)(CC)CC | C14H23FOSi
reactant | CH3CH═CH(CH2)2OSiEt3 | CC=CCCO[Si](CC)(CC)CC | C11H24OSi
reactant | CH2O | C=O | CH2O
product | Et2CHOSiEt3 | C(CC)(CC)O[Si](CC)(CC)CC | C11H26OSi
